US05371069
A mixture of triethylorthoformate (108 g, 0.74 mol) anisic aldehyde (89.4 g, 0.66 mol), diethyl L-tartrate (153.1 g, 0.743 mol), dimethylformamide (294 g) and p-toluenesulfonic acid (1.3 g) was heated at 100°-105° C. for 4 h. During the next 5 h, low boiling materials (100 mL) were removed by distillation (maximum pot temperature: 100° C., 300-360 mm vacuum). Sodium acetate (0.62 g) was added. Most of the dimethylformamide was then removed under reduced pressure (10 mm, maximum pot temperature 110° C.). The residue was cooled (25° C.) and diluted with toluene (500 mL). The mixture was washed with aqueous sodium bicarbonate (100 mL) and with brine (3×200 mL). Removal of solvents gave 211 g of crude product. Chromatography of a portion of the crude product followed by Kugelrohr distillation (0.5 mm, bath temperature 240°-250° C.) gave a sample of (4R,5R)-2-(4-methoxyphenyl)-4,5-dicarboethoxy-1,3-dioxolane, GLC purity: 98.6% [α]D25 -31.6° (c,1.14,ethanol). 1H-NMR (CDCl3)δ7.52 (2H,d,J=7.5 Hz), 6.91 (2H,d,J=7.5 Hz), 6.11 (1H,s), 4.92 (1H,d,J=4.0 Hz), 4.81 (1H,d,J=4.0 Hz), 4.37-4.25 (4H, 2 q, overlapping, J=7.2 Hz), 3.81 (3H,s), 1.38-1.29 (6H, 2 t, overlapping, J=7.2 Hz). IR (KBr) 2980, 1750, 1610, 1590, 1510 cm.-1MS m/e (% abundance) 324 (2), 251(12, 152(92), 135(100), 121(40), 108(16), 91(5), 77(14), 51(5).

reactant | triethylorthoformate | 0.74 mol, 108 g | C(C)OC(OCC)OCC | C7H16O3
reactant | diethyl L-tartrate | 0.743 mol, 153.1 g | C(=O)(OCC)[C@H](O)[C@@H](O)C(=O)OCC | C8H14O6
reactant | p-toluenesulfonic acid | 1.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dimethylformamide | 294 g | CN(C=O)C | C3H7NO
product | (4R,5R)-2-(4-methoxyphenyl)-4,5-dicarboethoxy-1,3-dioxolane | COC1=CC=C(C=C1)C1O[C@H]([C@@H](O1)C(=O)OCC)C(=O)OCC | C16H20O7
